US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(3,6-dimethyl-3,6,8,9-tetrahydro-pyrrolo[3,2-f]isoquinolin-7-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 3,6-Dimethyl-6,7,8,9-tetrahydro-3H-pyrrolo[3,2-f]isoquinoline to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 3,6-Dimethyl-6,7,8,9-tetrahydro-3H-pyrrolo[3,2-f]isoquinoline | CN1C=CC2=C3CCNC(C3=CC=C21)C | C13H16N2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(3,6-dimethyl-3,6,8,9-tetrahydro-pyrrolo[3,2-f]isoquinolin-7-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC=C3C(=C1CC2)C=CN3C)C | C20H18BrN5O
